### PR TITLE
Lra

### PR DESCRIPTION
**Pull request by proux01**
This is a Work In Progress to get lra (Linear Real Arithmetic) with MathComp. The parser needs to be completed but it already handles the following examples:
```Coq
From mathcomp Require Import all_ssreflect ssralg ssrnum rat.
From mathcomp Require Import lra.

Local Open Scope ring_scope.

Lemma test (F : realDomainType) (x y : F) :
  x + 2%:R * y ≤ 3%:R → 2%:R * x + y ≤ 3%:R → x + y ≤ 2%:R.
Proof.
lra.
Qed.

(* Print test. *)
(* Print Assumptions test.  (* Closed under the global context *) *)

Lemma test_rat (x y : rat) :
  x + 2%:R * y ≤ 3%:R → 2%:R * x + y ≤ 3%:R → x + y ≤ 2%:R.
Proof.
lra.
Qed.

Lemma test_rat_constant (F : realFieldType) (x : F) :
  0 ≤ x → 1 / 3 * x ≤ 2^-1 * x.
Proof.
lra.
Qed.
```

We also have `nra` and `psatz`.

The minimal assumption is a `realDomainType` because we need both a total order and a ring structure. This enables integer constants. In presence of a `realFieldType`, rational constants are understood.

This requires https://github.com/coq/coq/pull/15921 to export micromega witness generation as Ltac1 tactics and use an elpi parser.

### CODE REVIEW

**Comment by proux01** [comment]
@pi8027 I think algebra-tactics is the best place for that but let me know if you disagree.

File: theories/lra.v [hunk 1]
```diff
@@ -0,0 +1,281 @@
...
+  match eval hnf in (ltac:(lra) : ffQ) with
+  | QMicromega.QTautoChecker_sound ?ffq ?witq ?prfq (VarMap.find _ ?varmapq) =>
+      pose (ff := ffq);
+      pose (wit := witq);
+      pose (prf := prfq <: QMicromega.QTautoChecker ff wit = true);
+      let vm := rmF2Q F varmapq in
+      pose (varmap := vm)
+  end;
+  change (eval_bf (Internals.Feval_formula (VarMap.find 0 varmap)) ff);
+  exact (@Internals.FTautoChecker_sound F ff wit prf (VarMap.find 0 varmap)).
```
Comment (pi8027) [inline theories/lra.v:273]: And this part explains how it works. I'm thinking about exposing some more internals of `lra` on the Coq side (e.g., to take a reified term instead) so that we can avoid traversing the input term twice.

**Review by pi8027 — COMMENTED** [review]
I took a quick look. This is a note for myself rather than an actual review comment.

File: theories/lra.elpi [hunk 2]
```diff
@@ -0,0 +1,24 @@
...
+etoQ _F {{ (lp:X)%:R }} XQ :-
+  coq.reduction.vm.norm {{ Qmake (Z.of_nat lp:X) 1 }} {{ Q }} XQ.
+etoQ F {{ lp:X }} {{ @Internals.F2Q lp:F lp:X }}.
+
+pred toQ i:term, i:term, o:term.
+toQ F {{ lp:H -> lp:G }} {{ lp:HQ -> lp:GQ }} :- toQ F H HQ, toQ F G GQ.
+toQ F {{ _ -> lp:G }} {{ lp:GQ }} :- toQ F G GQ.
+toQ F {{ is_true (@Order.le _ lp:O lp:X lp:Y) }} {{ (lp:XQ <= lp:YQ)%Q }} :-
+  coq.unify-eq {{ Num.RealField.sort lp:F }} {{ Order.POrder.sort lp:O }} ok, !,
+  etoQ F X XQ, etoQ F Y YQ.
```
[the remark this answers is not in the document]
Comment (proux01) [reply theories/lra.elpi:19]: >     * `etoQ` ignores the implicit parameter of `GRing.add` and `GRing.mul`. I'd like to check the convertibility between `F` and them.

We could but I don't see how the test could fail if the term is well typed (since we already tested the type of the expression on l.18)

>     * This step can be seen as `preprocessing`. The actual reification happens in `lra`, on the preprocessed formula. I'd like to avoid traversing the input term twice.

I agree we should tweak the code of micromega in Coq so that it directly takes `ff` and `varmap` as input and we avoid doing the reification twice (but we should probably do some bench before, the extra reification may be cheap compared to running the simplex and the checker).

>     * In L.18, I think we should do `coq.unify-eq {{ Num.RealField.porderType lp:F }} O ok` instead.

Just tested, this unfortunately fails.

[the remark this answers is not in the document]
Comment (pi8027) [reply theories/lra.elpi:19]: > We could but I don't see how the test could fail if the term is well typed (since we already tested the type of the expression on l.18)

I agree that it is unlikely to happen. But I think it is easy to construct such an example using the converse ring.

[the remark this answers is not in the document]
Comment (proux01) [reply theories/lra.elpi]: Sorry, I misread your comment, you are perfectly right. I updated the checks. Thanks!

File: examples/lra_examples.v [hunk 3]
```diff
@@ -0,0 +1,230 @@
...
+Fail lra.  (* TODO should work *)
+Abort.
+
+(* Other (simple) examples *)
+
+Lemma binomial x y : (x + y)^+2 = x^+2 + 2%:R * x * y + y^+2.
+Proof.
+move=> *.
+Fail lra.  (* TODO should work *)
+Abort.
```
Comment (pi8027) [inline examples/lra_examples.v:101]: The `ring` tactic should solve this. But, can we also find cases where the combination of `ring_simplify` (not implemented yet) and `lra` can be useful?

File: examples/lra_examples.v [hunk 4]
```diff
@@ -0,0 +1,230 @@
...
+  1 = -2%:R * i + it.
+Proof.
+move=> *.
+(* Fail lra. *)  (* TODO should work *)
+Abort.
+
+Lemma l1 x y z : `|x - z| <= `|x - y| + `|y - z|.
+Proof.
+Fail intros; split_Rabs; lra.  (* TODO should work *)
+Abort.
```
Comment (pi8027) [inline examples/lra_examples.v:132]: I guess `lra` cannot solve this by itself. Some sort of preprocessing (like `zify`, or maybe [Trakt](https://github.com/ecranceMERCE/trakt)?) is required.

**Comment by pi8027** [comment]
Talking about preprocessing, we could also support terms like `(n + 10)%:~R`, and moreover, arbitrary homomorphisms. I hope [my paper about Algebra Tactics](https://arxiv.org/abs/2202.04330) is useful to implement such features.

File: examples/lra_examples.v (hunk 4 above)
Comment (ecranceMERCE) [reply examples/lra_examples.v:132]: Hello. Trakt could indeed probably turn the current goal into this one:
```coq
forall (x y z : Z), Z.abs (x - z) <= Z.abs (x - y) + Z.abs (y - z)
```

To that end, it would need an embedding declaration from `F` to `Z`, as well as declaring the following mappings:
- from `GRing.add` on `F` to `Z.add`;
- same for `opp`;
- from `Num.Def.normr` to `Z.abs`;
- from `Order.le` to `Z.le`.
Finally, it would require allowing conversion on most of these terms, so that `zmodType F`, `numDomainType F`, etc, can be identified.

Unfortunately, for a technical reason, `Order.le` and `Num.Def.normr` cannot be declared ATM. But I can make the change.

File: examples/lra_examples.v (hunk 3 above)
Comment (proux01) [reply examples/lra_examples.v]: Maybe. (off topic: I'm not entirely convinced we want `ring_simplify`, it's nice to debug `ring` failures but if left in proofs, it can make them not very robust, maybe rename it `ring_debug` or something if we implement it)

File: examples/lra_examples.v (hunk 4 above)
Comment (proux01) [reply examples/lra_examples.v:178]: Indeed looks like a case where an external preprocessing thing may be useful.

File: examples/lra_examples.v (hunk 3 above)
Comment (pi8027) [reply examples/lra_examples.v]: Actually, I don't think `ring_simplify` makes proof scripts less robust, but we can do the same thing with the assertive use of the `ring` tactic. So let's open another issue about `ring_simplify`.

Comment (pi8027) [reply examples/lra_examples.v]: #56

**Comment by gares** [comment]
FYI: https://github.com/LPCIC/coq-elpi/blob/7c070159906235b77a49d3dfe20bf92eea987887/elpi-builtin.elpi#L365

**Comment by proux01** [comment]
Thanks, the result will then go through the migromega plugin which is expecting axiom free terms:  https://github.com/coq/coq/blob/bb5e7e5fa39f11ec222b0c1434148a02f6d3c587/plugins/micromega/coq_micromega.ml#L333
hence the test.

**Comment by proux01** [comment]
> Talking about preprocessing, we could also support terms like `(n + 10)%:~R`, and moreover, arbitrary homomorphisms. I hope [my paper about Algebra Tactics](https://arxiv.org/abs/2202.04330) is useful to implement such features.

@pi8027 thanks, done
I now consider this ready. What about the following course of action?
1. you review (no hurry, I recommend doing this commit by commit to ease the process)
2. I take your review into account / iteration of 1. and 2.
3. once ready, I add a commit to support 8.13-8.15 (with the initial hack, this will be less efficient but should be reasonably easy)
4. you merge and release 1.1.0 compatible with Coq 8.13-8.15
5. revert last commit and release 1.1.1 compatible with Coq >= 8.16

**Comment by pi8027** [comment]
@proux01 Do you think it is possible to support Coq <= 8.15 and Coq >= 8.16 in the same branch? If so, I prefer to delay dropping the support for Coq <=8.15. If not, we can consider maintaining two branches.

**Comment by pi8027** [comment]
In any case, I'm fine with the first two items.

**Comment by proux01** [comment]
> Do you think it is possible to support Coq <= 8.15 and Coq >= 8.16 in the same branch?

Maybe, let me try.

**Comment by proux01** [comment]
> @proux01 Do you think it is possible to support Coq <= 8.15 and Coq >= 8.16 in the same branch?

Done (thanks to the wonderful `coq.version` function of coq-elpi!). The CI is as green as it can be (Docker images for coq-dev are unfortunately broken currently).

**Comment by gares** [comment]
W.r.t compat, you skinned the cat this way which is OK, but there is also another way which may be is a bit more lightweight (but less precise).

`Elpi Accumulate` understand `#[only="regexp"]` and `#[skip="regex"]`, so you can easily accumulate one file or another on top of the same tactic depending on the coq version.

Eg
```
Elpi Tactic foo.
Elpi Accumulate "common_code.elpi".
#[only="8.15.*"] Elpi Accumulate "compat_815_code.elpi". 
#[skip="8.15.*"] Elpi Accumulate "future_code.elpi".
Elpi Typecheck.
```
It is an OCaml regex, so it is a bit more hackish than `coq.version`, but it lifts the compat code selection at "compile" time.
Just FYI.

**Comment by proux01** [comment]
Not really, it's just a rather large PR whose review requires some time.

**Comment by gares** [comment]
bump

**Comment by pi8027** [comment]
Really sorry for the late response. Since I would like to use this feature in the MC school next month, I will do a minimal check and merge. (But, the compatibility with MC 2.0 would require more work.)

**Comment by gares** [comment]
The names of these coercions are "private", but we can surely give them a public name if needed.
Querying HB database is also a possibility, but I don't think we have this specific predicate/database.
For an alpha release of MC 2.0, using the "private" names of the coercions may be the only option.

**Comment by proux01** [comment]
So here is a hierarchy-builder port that seems to work: https://github.com/proux01/algebra-tactics/tree/hierarchy-builder (for master branch, haven't tried yet for this lra branch)

File: theories/lra.elpi [hunk 5]
```diff
@@ -0,0 +1,498 @@
...
+% Reification procedure
+
+% [quote.cstr V In OutM Out] reifies integer constants
+% - [V] is a [ringType]
+% - [In] is a term of type [V],
+% - [OutM] is a reified constant of type [MExpr V]
+% - [Out] is a reified constant of type [PExpr Q]
+% - [OutQ] the reified [Out] as a [Q] (for <= 8.15 compat)
+pred quote.cstr i:term, i:term, o:term, o:term, o:term.
+quote.cstr V {{ GRing.zero lp:Z }} OutM Out OutQ :- ring->zmod V Z,
```
Comment (pi8027) [inline theories/lra.elpi:147]: I thought we should put a bang `!` after `ring->zmod` but not entirely sure. @gares

**Comment by pi8027** [comment]
@proux01 If you agree, I will do a minimal fix for some of the issues above and then merge (by tomorrow).

File: theories/lra.elpi (hunk 5 above)
Comment (proux01) [reply theories/lra.elpi:147]: Yes, it looks fine here (I guess it's equivalent as the remaining should never fail in practice)

**Comment by pi8027** [comment]
> So here is a hierarchy-builder port that seems to work: https://github.com/proux01/algebra-tactics/tree/hierarchy-builder (for master branch, haven't tried yet for this lra branch)

Could you open another PR for this? Thanks a lot.

File: theories/lra.v [hunk 6]
```diff
@@ -0,0 +1,706 @@
...
+End RealField.
+
+(* Auxiliary function called from lra.elpi *)
+Definition vm_of_list T (l : list T) : VarMap.t T :=
+  let fix aux acc p l :=
+    match l with
+    | [::] => acc
+    | x :: l => aux (VarMap.vm_add x p x acc) (Pos.succ p) l
+    end in
+  aux VarMap.Empty 1%positive l.
```
[the remark this answers is not in the document]
Comment (proux01) [reply theories/lra.v:462]: Probably but I'm not sure it is worth spending too much effort on this (if your solution is simple enough, sure let's go for it).

File: theories/lra.elpi (hunk 5 above)
Comment (pi8027) [reply theories/lra.elpi:147]: I agree that the behavior is the same, but putting a bang may avoid keeping some useless information about backtracking (but again, I'm not entirely sure).

**Comment by pi8027** [comment]
A related math question: Let's say `R` and `S` are ordered rings and `n` and `m` are natural numbers. Is it feasible to prove things like `n%:R <= m%:R :> R -> n%:R <= m%:R :> S` using `lia`, by embedding them into a larger ordered ring?

**Comment by proux01** [comment]
I guess you mean "using `lra`"?

File: theories/lra.v [hunk 7]
```diff
@@ -0,0 +1,706 @@
...
+  let iprf := fresh "__prf" in
+  pose (irff := rff);
+  pose (ivarmap := varmap);
+  tac iwit ff ffQ
+      (eval_bf (Internals.Feval_formula (VarMap.find 0 ivarmap))) ff;
+  pose (iprf := erefl true <: QTautoChecker iff iwit = true);
+  change (eval_bf Internals.Meval_formula irff);
+  rewrite Internals.Mnorm_bf_correct;
+  change (eval_bf (Internals.Feval_formula (VarMap.find 0 ivarmap)) iff);
+  exact (Internals.FTautoChecker_sound iprf (VarMap.find 0 ivarmap)).
```
Comment (pi8027) [inline theories/lra.v:663]: For performance reasons, they should be done by one lemma application, and the reduction of `QTautoCHecker` should be done by `vm_compute`.

**Comment by pi8027** [comment]
Sorry, it takes a few more days.

File: theories/lra.v (hunk 7 above)
Comment (proux01) [reply theories/lra.v:663]: Isn't it aleady what `<:` does? (I mostly copied this from micromega so I was expecting it to be reasonably efficient)

**Comment by proux01** [comment]
> Sorry, it takes a few more days.

No worries. Once merged, I'll try to rebase #71

File: theories/lra.v (hunk 7 above)
Comment (proux01) [reply theories/lra.v:663]: Note that the rewrite is trivial.

Comment (pi8027) [reply theories/lra.v:663]: Regarding `vm_compute`, you are right. But I think that we can abstract out operators in the latter conversion (`change`). https://github.com/math-comp/algebra-tactics/blob/a9134c2a01e82663aea48014109fb8cbc802e697/theories/ring.v#L416-L422

**Comment by pi8027** [comment]
@proux01 Could you confirm that Micromega at this moment does not provide a witness generator (like `wlra_Q`) accepting an input of type `BFormula (Formula Z) isProp`? It seems to me that the translation part is a kind of wasteful computation.

**Comment by proux01** [comment]
@pi8027 I confirm that. IIRC avoiding the translation would require non trivial changes to micromega (but my memory might betray me, I wrote that code a few months ago now).

File: theories/lra.elpi [hunk 8]
```diff
@@ -0,0 +1,498 @@
...
+    (coq.typecheck TypeFM' {{ BFormula (@Internals.MFormula lp:NDF) isProp }})
+    "The reification produced an ill-typed result, this is a bug.",
+  std.assert-ok!
+    (coq.typecheck TypeF' {{ BFormula (Formula Q) isProp }})
+    "The reification produced an ill-typed result, this is a bug.",
+  rf->sort F FS, list-constant FS VM VM',
+  coq.reduction.vm.norm
+    {{ Internals.vm_of_list lp:VM' }}
+    {{ VarMap.t lp:FS }}
+    VM'',
```
Comment (pi8027) [inline theories/lra.elpi:493]: The varmap should not be reduced since it may contain arbitrary terms. My understanding is that, since the default conversion compares terms lazily, we do not have to manually unfold `vm_of_list`.

**Comment by pi8027** [comment]
Almost done, but I ended up removing:
- the compatibility layer for Coq <= 8.15 and
- the support for large `nat` constants (which I plan to put back more properly).

I will push my result soon.

File: theories/lra.v [hunk 9]
```diff
@@ -0,0 +1,669 @@
...
+Definition seq_Psatz_Q2Z : seq (Psatz Q) -> seq (Psatz Z) :=
+  map (fun p => fst (Psatz_Q2Z [::] p)).
+
+End Internals.
+
+(* Main tactics, called from the elpi parser (c.f., lra.elpi) *)
+
+Ltac tacF tac efalso hyps_goal rff ff varmap :=
+  match efalso with true => exfalso | _ => idtac end;
+  (suff: hyps_goal by exact);
```
Comment (pi8027) [inline theories/lra.v:615]: This `exact` would trigger a search for hypotheses and thus some conversion. It would be better to `move:` hypotheses manually, but let's do that later.

**Comment by pi8027** [comment]
@proux01 I will do a few more fixes and then merge, but feel free to ask questions.

**Comment by proux01** [comment]
@pi8027 thanks!

> the compatibility layer for Coq <= 8.15

Well, this made sense six months ago, maybe less so now.

After a quick look, the only thing I'm a bit worried about are the `!` in `rfstr.bool` and `rfstr.prop`. Maybe we should add a test for it but if the goal looks something like `x <= 2 && true = true`, I fear it would look for a field instance in `true = true`, fail and not backtrack to `x <= 2` because of the `!`?

File: theories/lra.v [hunk 10]
```diff
@@ -0,0 +1,706 @@
...
+Definition pos_to_nat' p :=
+  if (p <=? 5000)%positive then Pos.to_nat p
+  else Init.Nat.of_num_uint (Pos.to_num_uint p).
+
+Definition int_of_Z' (z : Z) : int :=
+  match z with
+  | Z0 => 0
+  | Z.pos p => pos_to_nat' p
+  | Z.neg p => Negz (pos_to_nat' p).-1
+  end.
```
[the remark this answers is not in the document]
Comment (pi8027) [reply theories/lra.v]: Fixed in #72.

**Comment by pi8027** [comment]
> After a quick look, the only thing I'm a bit worried about are the `!` in `rfstr.bool` and `rfstr.prop`. Maybe we should add a test for it but if the goal looks something like `x <= 2 && true = true`, I fear it would look for a field instance in `true = true`, fail and not backtrack to `x <= 2` because of the `!`?

Thanks. Done in #72. (Note that `;` is disjunction.)
